US06352982B1
4-Aminophenethyl alcohol (3.5 g) was dissolved in ethyl acetate (60 ml), to which was added 1N sodium hydroxide (50 ml). To the mixture was added, while stirring at room temperature, carbobenzoxy chloride (4.5 g). The mixture was stirred for 30 minutes. The organic layer was then separated, washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to leave 4-benzyloxycarbonylaminophenethyl alcohol (4.5 g) as a liver brown crystalline product (4.5 g),

reactant | 4-Aminophenethyl alcohol | 3.5 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
reactant | carbobenzoxy chloride | 4.5 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 4-benzyloxycarbonylaminophenethyl alcohol | 4.5 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(CCO)C=C1 | C16H17NO3
